### PR TITLE
Rt doReplyTransfer

### PR DESCRIPTION
**Pull request by MitchellBuckley**

### CODE REVIEW

File: proof/refine/ARM/Ipc_R.thy [hunk 1]
```diff
@@ -2146,130 +2146,144 @@ lemma replyPush_corres:
...
-     apply (erule cte_wp_at_weakenE)
-     apply clarsimp
-     apply (rule conjI, rule refl)
-     apply (fastforce)
-    apply (clarsimp simp: invs_def valid_sched_def valid_sched_action_def)
-   apply (simp)
-   apply (auto simp: invs'_def valid_state'_def)[1]
+crunches handle_fault_reply
+  for pspace_aligned[wp]: pspace_aligned
+  and pspace_distinct[wp]: pspace_distinct
```
Comment (MitchellBuckley) [inline proof/refine/ARM/Ipc_R.thy:2151]: I would like to move these up to `Move.thy` but they take advantage of unfolding arch-specific functions and so they can't be moved trivially.
